US08242125B2
67-C. Methanesulfonic acid 4-[4-fluoro-1-(4-fluoro-3-trifluoromethyl-phenylcarbamoyl)-2-methyl-1H-indol-5-yloxy]-pyridin-2-ylmethyl ester
4-Fluoro-5-(2-hydroxymethyl-pyridin-4-yloxy)-2-methyl-indole-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide (370 mg, 0.775 mmol) is placed in dichloromethane (10 mL) and methanesulfonyl chloride (0.15 mL, 1.92 mmol) and TEA (0.4 ml, 2.87 mmol) are added. The reaction is stirred at rt for 20 min before being diluted with dichloromethane and saturated aqueous NH4Cl. The aqueous layer is extracted further with dichloromethane. The combined organic layers are washed with brine and dried over Na2SO4, filtered, and concentrated to give the title compound. MS (ESI) m/z 555.8 (M+1)

reactant | 4-Fluoro-5-(2-hydroxymethyl-pyridin-4-yloxy)-2-methyl-indole-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | 0.775 mmol, 370 mg | FC1=C(C=C(C=C1)NC(=O)N1C(=CC2=C(C(=CC=C12)OC1=CC(=NC=C1)CO)F)C)C(F)(F)F | C23H16F5N3O3
reactant | methanesulfonyl chloride | 1.92 mmol, 0.15 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | NH4Cl | [NH4+].[Cl-]
product | Methanesulfonic acid 4-[4-fluoro-1-(4-fluoro-3-trifluoromethyl-phenylcarbamoyl)-2-methyl-1H-indol-5-yloxy]-pyridin-2-ylmethyl ester | FC1=C2C=C(N(C2=CC=C1OC1=CC(=NC=C1)COS(=O)(=O)C)C(NC1=CC(=C(C=C1)F)C(F)(F)F)=O)C | C24H18F5N3O5S
